US06977262B2
Ethyl 4-(2-chlorophenyl)-4,7-dihydro-6-isopropyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate
2-Chlorobenzaldehyde (1.41 g), 3-aminopyrazole (0.83 g) and ethyl isobutyrylacetate (1.58 g) were stirred in acetic acid (10 ml) at 80° C. for 2 hours. Under ice-cooling, a saturated aqueous sodium hydrogencarbonate solution was added to the reaction mixture. The insoluble material was filtered off, and the mixture was extracted with ethyl acetate. The extract was washed with a saturated aqueous sodium chloride solution and dried over anhydrous magnesium sulfate. The extract was concentrated under reduced pressure and the obtained residue was purified by silica gel column chromatography (eluent:hexane-ethyl acetate (1:1)). The purified product was crystallized from hexane-ethyl acetate to give the title compound (115 mg) as white crystals.

reactant | 2-Chlorobenzaldehyde | 1.41 g | ClC1=C(C=O)C=CC=C1 | C7H5ClO
reactant | 3-aminopyrazole | 0.83 g | NC1=NNC=C1 | C3H5N3
reactant | ethyl isobutyrylacetate | 1.58 g | C(C(C)C)(=O)CC(=O)OCC | C8H14O3
reactant | sodium hydrogencarbonate | C(O)([O-])=O.[Na+]
solvent | acetic acid | 10 ml | C(C)(=O)O | C2H4O2
product | Ethyl 4-(2-chlorophenyl)-4,7-dihydro-6-isopropyl-2H-pyrazolo[3,4-b]pyridine-5-carboxylate | 115 mg | ClC1=C(C=CC=C1)C1C=2C(NC(=C1C(=O)OCC)C(C)C)=NNC2 | C18H20ClN3O2
